US07598257B2
3-(6-Chloropyridin-3-yl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin4-yl)-1H-pyrazol-1-yl]propanenitrile (prepared by methods analogous to those described for Example 61) (0.070 g, 0.00014 mol) in TFA (3.0 mL, 0.039 mol) and DCM (3.0 mL, 0.047 mol) was stirred at room temperature for 1 hour. Solvent was removed in vacuo, and the residue was dissolved in methanol (4.0 mL, 0.099 mol) and ethylenediamine (0.07 mL, 0.001 mol). The reaction mixture was stirred at room temperature overnight. Solvent was removed in vacuo, the crude product was purified by preparative HPLC eluting with an ACN; water gradient buffered with ammonium hydroxide to pH=10, to give 3-(6-chloropyridin-3-yl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile as a white powder (35 mg, 69%), LCMS (M+1)+: 350, 1H NMR (DMSO-d6) δ 12.21 (b, 1H), 9.00 (s, 1H), 8.78 (s, 1H), 8.62 (s, 1H), 8.58 (s, 1H), 8.00 (m, 1H), 7.70 (m, 2H), 7.00 (s, 1H), 6.22 (m, 1H), 3.90 (m, 1H), 3.78 (m, 1H)

reactant | 3-(6-Chloropyridin-3-yl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin4-yl)-1H-pyrazol-1-yl]propanenitrile | ClC1=CC=C(C=N1)C(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C23H26ClN7OSi
reactant | TFA | 0.039 mol, 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 0.047 mol, 3.0 mL | C(Cl)Cl | CH2Cl2
reactant | methanol | 0.099 mol, 4.0 mL | CO | CH4O
reactant | ethylenediamine | 0.001 mol, 0.07 mL | C(CN)N | C2H8N2
product | 3-(6-chloropyridin-3-yl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | 35 mg, 69% | ClC1=CC=C(C=N1)C(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C17H12ClN7
